US04517185
4,4-Diphenyl-2-isopropylthio-5-oxo-2-pyrroline-3-carbonitrile
1.2 g. Sodium is dissolved in 150 ml. ethanol, 15.2 g. 5-hydroxy-4,5-diphenyl-2-thioxo-3-pyrroline-3-carbonitrile are added thereto and the reaction mixture is then boiled for 20 minutes. A solution of 7.0 g. isopropyl bromide in 25 ml. absolute ethanol is then added dropwise thereto within the course of 10 minutes and refluxing continued for a further 3 hours. After cooling, the solvent is stripped off on a rotary evaporator and the residue is triturated with 100 ml. water. The precipitate is filtered off with suction and crystallised from ethanol. There are obtained 11.1 g. (64.0% of theory) of the desired product in the form of colourless crystals; m.p. 160° C.

reactant | Sodium | [Na] | Na
reactant | 5-hydroxy-4,5-diphenyl-2-thioxo-3-pyrroline-3-carbonitrile | OC1(C(=C(C(N1)=S)C#N)C1=CC=CC=C1)C1=CC=CC=C1 | C17H12N2OS
reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
solvent | ethanol | C(C)O | C2H6O
product | 4,4-Diphenyl-2-isopropylthio-5-oxo-2-pyrroline-3-carbonitrile | C1(=CC=CC=C1)C1(C(=C(NC1=O)SC(C)C)C#N)C1=CC=CC=C1 | C20H18N2OS
